US08877758B2
26.5 5-fluoro-1-methyl-2-piperazin-1-yl-1H-benzimidazole (V-8)
0.7 g 2-chloro-5-fluoro-1-methyl-1H-benzimidazole and 1.3 g piperazine are suspended in 10 ml n-butanol and stirred for 48 hours at ambient temperature. The reaction mixture is evaporated to dryness and the product is purified by chromatography (aluminium oxide, methylene chloride/methanol 10/1). 0.73 g (V-8) are obtained as a solid. 1H NMR (400 MHz, DMSO): 6.9 (1H, t); 3.6 (3H, s).

reactant | 2-chloro-5-fluoro-1-methyl-1H-benzimidazole | 0.7 g | ClC1=NC2=C(N1C)C=CC(=C2)F | C8H6ClFN2
reactant | piperazine | 1.3 g | N1CCNCC1 | C4H10N2
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | 5-fluoro-1-methyl-2-piperazin-1-yl-1H-benzimidazole | FC1=CC2=C(N(C(=N2)N2CCNCC2)C)C=C1 | C12H15FN4
